US05986066
4.57 g of ε-aminocaproic acid were dissolved in a solution of 8.8 g of NaHCO3 in 100 ml water. 7.6 g of p-azidobenzenesulfonic acid chloride were suspended therein and the mixture was stirred overnight. The product was precipitated from the resulting solution with HCl, filtered off and washed with water. 4.56 g of ε-(p-azidobenzenesulfonylamino)caproic acid were obtained after drying in a high vacuum at room temperature. The IR showed the expected bands at 2907 (azide), 1715 (acid carbonyl), 1585+1400 (aromatic), 1282 (COOH), 1319+1153 (aryl sulfonyl), 834 (p- disubst. benzene); TLC (silica gel: EtOAc)/EtOH=3) Rf=0.55; m.p.=126-127° C.

reactant | ε-aminocaproic acid | 4.57 g | NCCCCCC(=O)O | C6H13NO2
reactant | p-azidobenzenesulfonic acid chloride | 7.6 g | N(=[N+]=[N-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClN3O2S
solvent | NaHCO3 | 8.8 g | C(=O)(O)[O-].[Na+]
solvent | water | 100 ml | O | H2O
product | ε-(p-azidobenzenesulfonylamino)caproic acid | 4.56 g | N(=[N+]=[N-])C1=CC=C(C=C1)S(=O)(=O)NCCCCCC(=O)O | C12H16N4O4S
